US04461896
6-Hydroxy-2-quinolinecarboxylic Acid
6-Methoxy-2-quinolinecarboxylic acid (80.6 g) was refluxed in 48% hydrobromic acid (450 ml) for twenty-four hours. After cooling to room temperature, the solid was collected by filtration and then dissolved in water (1300 ml) at 90° and the pH of this solution was adjusted to 8-9 with concentrated ammonium hydroxide. After cooling to room temperature, the pH of this solution was adjusted to 4-5 with acetic acid. The resulting 6-hydroxy-2-quinolinecarboxylic acid was collected by filtration and washed with water (400 ml); yield 70 g, m.p. 260°-261° (dec).

reactant | 6-Methoxy-2-quinolinecarboxylic acid | 80.6 g | COC=1C=C2C=CC(=NC2=CC1)C(=O)O | C11H9NO3
solvent | hydrobromic acid | 450 ml | Br | BrH
product | 6-Hydroxy-2-quinolinecarboxylic Acid | OC=1C=C2C=CC(=NC2=CC1)C(=O)O | C10H7NO3
